US05614534
3.4 ml (3.6×10-2 mole) of acetic anhydride was added to a solution of 8 g (2.4×10-2 mole) of 1-dodecyl-N,β,β-trimethyl-4-piperidineethanamine in 100 ml of dichloromethane and 16.8 ml of N,N-diethylethanamine. The reaction mixture was stirred for 12 hours at room temperature. The solution was poured into a 1N sodium hydroxide solution and extracted with trichloromethane. The organic phase was washed with water, dried and filtered and the solvents were evaporated off under reduced pressure. 8.7 g of N-methyl-N-[2-methyl-2-[(1-dodecyl)-4-piperidinyl]propyl]acetamide (yield: 97%) was obtained, from which the 4-methylbenzene sulphonate was prepared and recrystallised from ethyl acetate. M Pt=102°-103° C.

reactant | acetic anhydride | 3.6×10-2 mole, 3.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-dodecyl-N,β,β-trimethyl-4-piperidineethanamine | 2.4×10-2 mole, 8 g | C(CCCCCCCCCCC)N1CCC(CC1)C(CNC)(C)C | C22H46N2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 4-methylbenzene sulphonate | CC1=CC=C(C=C1)S(=O)(=O)[O-]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | N,N-diethylethanamine | 16.8 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-[2-methyl-2-[(1-dodecyl)-4-piperidinyl]propyl]acetamide | 8.7 g, yield: 97% | CN(C(C)=O)CC(C)(C1CCN(CC1)CCCCCCCCCCCC)C | C24H48N2O
